US09102591B2
2-Chloro-N-(2-(tetrahydro-2H-pyran-4-yl)-2-(6-(trifluoromethyl)pyridin-3-yl)ethyl)benzamide
From 2-chlorobenzoic acid and 2-(tetrahydro-2H-pyran-4-yl)-2-(6-(trifluoromethyl)pyridin-3-yl)ethanamine. LCMS (MH+): m/z=413.0, tR (minutes, Method E)=0.64

reactant | 2-chlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
reactant | 2-(tetrahydro-2H-pyran-4-yl)-2-(6-(trifluoromethyl)pyridin-3-yl)ethanamine | O1CCC(CC1)C(CN)C=1C=NC(=CC1)C(F)(F)F | C13H17F3N2O
product | 2-Chloro-N-(2-(tetrahydro-2H-pyran-4-yl)-2-(6-(trifluoromethyl)pyridin-3-yl)ethyl)benzamide | ClC1=C(C(=O)NCC(C=2C=NC(=CC2)C(F)(F)F)C2CCOCC2)C=CC=C1 | C20H20ClF3N2O2
